US06969724B2
(±)-trans-7-[(4-phenylpiperidin-1-yl)methyl]-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-ol hydrochloride
0.7 g (2.1 mmol) of (±)-7-[(4-phenylpiperidin-1-yl)methyl]-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one were dissolved in 40 mL of MeOH and 0.35 g of NaBH4 were added portionwise. The reaction mixture was stirred 2 h at room temperature, the MeOH removed in vacuo, then the residue was taken up in 1N NaOH and extracted with CH2Cl2. The organic phase was dried and the solvent was removed in vacuo. The crude product was purified by chromatography, eluting with CH2Cl2 and then with a mixture CH2Cl2/MeOH 100:3 respectively, yielding 100 mg of trans isomer which was dissolved in a mixture CH2Cl2/Et2O: The solution was brought to acidic pH with Et2O/HCl and the solvent was removed in vacuo. The resulting solid was triturated with hot acetone, filtered and dried, yielding 90 mg of the title compound. m.p.>250° C.

reactant | (±)-7-[(4-phenylpiperidin-1-yl)methyl]-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one | 2.1 mmol, 0.7 g | C1(=CC=CC=C1)C1CCN(CC1)CC1CC(C2=C(CC1)C=CC=C2)=O | C23H27NO
reactant | NaBH4 | 0.35 g | [BH4-].[Na+]
reactant | Et2O HCl | CCOCC.Cl
solvent | MeOH | 40 mL | CO | CH4O
solvent | CH2Cl2 Et2O | C(Cl)Cl.CCOCC
product | (±)-trans-7-[(4-phenylpiperidin-1-yl)methyl]-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-ol hydrochloride | 90 mg | Cl.C1(=CC=CC=C1)C1CCN(CC1)C[C@@H]1C[C@H](C2=C(CC1)C=CC=C2)O | InChI=1S/C23H29NO.ClH/c25-23-16-18(10-11-21-8-4-5-9-22(21)23)17-24-14-12-20(13-15-24)19-6-2-1-3-7-19;/h1-9,18,20,23,25H,10-17H2;1H/t18-,23+;/m0./s1
